US07524871B2
Step 3: Synthesis of (±)-N-(2-amino-4,5,6,7-tetrahydro-1,3 -benzothiazol-6-yl)-2-[3-[(butylsulfonyl)amino]-6-methyl-2-oxo-1(2H)-pyridinyl]acetamide
The title compound was prepared from 2-[3-[(butylsulfonyl)amino]-6 -methyl-2-oxo-1(2H)-pyridinyl]acetic acid and 4,5,6,7-tetrahydro-1,3-benzothiazol-2,6-diamine dihydrobromide using the procedure of EXAMPLE 1 (STEP 6). The product was recrystallized from methanol to give a pale brown solid compound.

reactant | 2-[3-[(butylsulfonyl)amino]-6 -methyl-2-oxo-1(2H)-pyridinyl]acetic acid | C(CCC)S(=O)(=O)NC=1C(N(C(=CC1)C)CC(=O)O)=O | C12H18N2O5S
reactant | 4,5,6,7-tetrahydro-1,3-benzothiazol-2,6-diamine dihydrobromide | Br.Br.S1C(=NC2=C1CC(CC2)N)N
product | (±)-N-(2-amino-4,5,6,7-tetrahydro-1,3 -benzothiazol-6-yl)-2-[3-[(butylsulfonyl)amino]-6-methyl-2-oxo-1(2H)-pyridinyl]acetamide | NC=1SC2=C(N1)CCC(C2)NC(CN2C(C(=CC=C2C)NS(=O)(=O)CCCC)=O)=O | C19H27N5O4S2
